US06187802B1
A solution of bromine (1.84 ml) in ether (25 ml) was added dropwise over 1 hour at ambient temperature to a stirred solution of 3-(3,4-dichlorophenyl)-3-methylbutan-2-one (8.24 g) in ether (250 ml). After the addition was complete and the bromine colour had dissipated, the mixture was stirred at ambient temperature for a further 30 minutes then it was washed with water (100 ml), saturated aqueous sodium hydrogen carbonate solution (2×100 ml) and water (100 ml), dried (MgSO4), and the solvent removed in vacuo to give 1-bromo-3-(3,4-dichlorophenyl)-3 methylbutan-2-one as an oil (9.57 g) which was used without purification.

reactant | bromine | 1.84 ml | BrBr | Br2
reactant | 3-(3,4-dichlorophenyl)-3-methylbutan-2-one | 8.24 g | ClC=1C=C(C=CC1Cl)C(C(C)=O)(C)C | C11H12Cl2O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-bromo-3-(3,4-dichlorophenyl)-3 methylbutan-2-one | 9.57 g | BrCC(C(C)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C11H11BrCl2O
